US06410585B1
5-[(2S)-3-[([1,1′-Biphenyl]-4-ylmethoxy)amino]-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxopropyl]-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (91 mg, 0.16 mmol) and 4-[(aminooxy)methyl]-1,1′-biphenyl hydrochloride (46 mg, 0.20 mmol) according to Method C with HPLC purification to give the title compound (47 mg). 1H-NMR (400 MHz, CD3OD-Me2SO-d6) d 7.74-7.16 (17H), 4.84 (1H), 4.76 (1H), 4.64 (s, 2H), 4.32 (m, 1H), 3.03 (m, 3H), 1.41 (s, 9H); IR (KBr) 3272, 2978, 1681, 1652 cm−1; HRMS m/z 711.2831 (calc. of monoisotopic mass for C39H41N3O10 gives 711.2792).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.16 mmol, 91 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 4-[(aminooxy)methyl]-1,1′-biphenyl hydrochloride | 0.20 mmol, 46 mg | Cl.NOCC1=CC=C(C=C1)C1=CC=CC=C1
product | 5-[(2S)-3-[([1,1′-Biphenyl]-4-ylmethoxy)amino]-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxopropyl]-2-(carboxymethoxy)benzoic Acid | 47 mg | C1(=CC=C(C=C1)CONC([C@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)NC([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O)=O)C1=CC=CC=C1 | C39H41N3O10
